US04187379
3-Phenoxy-2-pyridinecarbonitrile 1-oxide
A solution of 9.6 g of 3-phenoxy-2-pyridinecarbonitrile, [J. Med. Chem. 18, 1 (1975)] in 25 ml of glacial acetic acid is treated with 25 g of 40% peracetic acid in acetic acid. The mixture is heated at 95° C. for 16 hours. One hundred ml of isopropanol is added and the mixture is concentrated at reduced pressure. The residue is dissolved in 250 ml of dichloromethane and the organic layer is washed with excess dilute sodium hydroxide solution and is dried over anhydrous MgSO4.

reactant | 3-phenoxy-2-pyridinecarbonitrile | 9.6 g | O(C1=CC=CC=C1)C=1C(=NC=CC1)C#N | C12H8N2O
reactant | peracetic acid | 25 g | C(C)(=O)OO | C2H4O3
reactant | isopropanol | One hundred ml | C(C)(C)O | C3H8O
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 3-Phenoxy-2-pyridinecarbonitrile 1-oxide | O(C1=CC=CC=C1)C1=C([N+](=CC=C1)[O-])C#N | C12H8N2O2
